US07482356B2
Preparation of 3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (20):
To a solution of 3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid tert-butyl ester, 19, (6.8 g, 25.4 mmol), pyrazolidine-bishydrochloride (5.5 g, 38.1 mmol) and 4-angstrom molecular sieves (8.5 g) in toluene is added triethylamine (10.6 mL, 76.1 mmol). The reaction mixture is stirred for 4 hours at reflux. The solution is filtered through celite and washed with ether. The resulting yellow solid is purified over silica (10% MeOH/chloroform) to afford 5 g of the desired product as a yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.72 (d, J=5.1 Hz, 1H), 7.62 (d, J=5.1 Hz, 1H), 6.08 (s, 1H), 4.26 (t, J=7.5 Hz, 2H), 3.80 (t, J=7.8 Hz, 2H), 2.62 (dddd, J=7.5, 7.5, 7.5, 7.5 Hz, 2H), 2.60 (s, 3H); ESI+ MS: m/z (rel intensity) 249.1 (70, M++H).

reactant | 3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=NC(=NC=C1)SC)=O | C12H16N2O3S
reactant | pyrazolidine-bishydrochloride | 25.4 mmol, 6.8 g | Cl.Cl.N1NCCC1
reactant | triethylamine | 76.1 mmol, 10.6 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 5 g | CSC1=NC=CC(=N1)C1=CC(N2N1CCC2)=O | C11H12N4OS
